US07304081B2
Step 1a: 1-[4-(1-hydroxycyclopentyl)phenyl]cyclopropanecarboxylic acid
A solution of 1-(4-bromophenyl)cyclopropanecarboxylic acid (600.0 mg, 0.002489 mol) in tetrahydrofuran (20 mL, 0.2 mol) was cooled below −20 Celsius under N2 atmosphere, and 1.0 M of dibutylmagnesium in heptane (1.3 mL) was slowly added to the solution while maintaining the temperature below −20 Celsius. Then n-butyllithium (2.5 M in hexane, 1.1 mL) was slowly added to the slurry while maintaining the temperature below −20 Celsius with effective stirring. After the mixture was stirred at −20 Celsius for 1 hour, a solution of cyclopentanone (0.264 mL, 0.00299 mol) in THF (20.0 mL) was added to the mixture. Then after stirring at −20 Celsius for 1 hour, the reaction was quenched with ammonium chloride and the reaction mixture was extracted with ethyl acetate. The organic phase was washed with brine, then dried over Na2SO4, and then filtered. The filtrate was concentrated. The residue was flash chromatographed on silica gel column with 30% ethyl acetate in hexanes to afford the desired compound. MS (ESI): 229.1 (M−OH−), 269.1(M+Na+).

reactant | 1-(4-bromophenyl)cyclopropanecarboxylic acid | 0.002489 mol, 600.0 mg | BrC1=CC=C(C=C1)C1(CC1)C(=O)O | C10H9BrO2
reactant | dibutylmagnesium | 1.0 M | C(CCC)[Mg]CCCC
reactant | n-butyllithium | 2.5 M, 1.1 mL | C(CCC)[Li]
reactant | cyclopentanone | 0.00299 mol, 0.264 mL | C1(CCCC1)=O | C5H8O
solvent | heptane | 1.3 mL | CCCCCCC | C7H16
solvent | THF | 20.0 mL | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 0.2 mol, 20 mL | O1CCCC1 | C4H8O
product | 1-[4-(1-hydroxycyclopentyl)phenyl]cyclopropanecarboxylic acid | OC1(CCCC1)C1=CC=C(C=C1)C1(CC1)C(=O)O | C15H18O3
